US09079866B2
1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]u rea
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)urea. MS (ESI): mass calcd. for C17H14FN5O, 323.12; m/z found, 323.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.38 (s, 1H), 8.02 (s, 1H), 7.95 (m, 1H), 7.86 (d, J=8.9, 1H), 7.56 (s, 1H), 7.36-7.19 (m, 4H), 7.08 (m, 1H), 6.73 (s, 2H), 6.01 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)urea | BrC1=C(C=CC=C1)NC(=O)N | C7H7BrN2O
product | 1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]u rea | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NC(=O)N)F | C17H14FN5O
